US03932663
Di-4-biphenylyl ketone (6.68 g.) was added to a mixture of N,N-Di-methylcarbamoylmethyl phosphonic acid diethyl ester (C.A. 65, 615 g. 1966) (4.46 g.), sodium hydride (60%) (0.8 g.) and benzene (400 ml.). The mixture was boiled under reflux for sixty hours. The benzene layer, decanted and evaporated, gave an oil, from which, by column chromatography on silica gel MFC in benzene and elution by ethyl acetate, was isolated N,N-dimethyl3, 3-di(4-biphenylyl) acrylamide, m.p. 121°C after recrystallisation from light petroleum (b.p. 80°-100°C). This, reduced with lithium aluminium hydride in ether/tetrahydrofuran at -30°C, gave 1,1-di(4-biphenylyl) -3 -dimethylaminoprop-1-ene identical with that described in Example 1 .

reactant | Di-4-biphenylyl ketone | 6.68 g | C1(=CC=C(C=C1)C(=O)C1=CC=C(C=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C25H18O
reactant | N,N-Di-methylcarbamoylmethyl phosphonic acid diethyl ester | 615 g | C(C)OP(OCC)(=O)CC(N(C)C)=O | C8H18NO4P
reactant | sodium hydride | 0.8 g | [H-].[Na+]
solvent | benzene | 400 ml | C1=CC=CC=C1 | C6H6
product | N,N-dimethyl3, 3-di(4-biphenylyl) acrylamide | CN(C(C=C(C1=CC=C(C=C1)C1=CC=CC=C1)C1=CC=C(C=C1)C1=CC=CC=C1)=O)C | C29H25NO
